US07582761B2
(a) 3-Nitro-5-trifluoromethyl-pyridin-2-ylamine
To a 250-mL, round-bottomed flask was added 5-trifluoromethyl-pyridin-2-ylamine (8.3 g, 51.2 mmol, Matrix Scientific) and H2SO4 (49 mL). The resulting mixture was cooled to 0° C., and HNO3 (8.2 mL) was added dropwise. The mixture was heated to 80° C. for 48 h, cooled to room temperature and added dropwise into a vigorously stirred ice-water (500 mL). After the addition, the mixture was basified to pH 9 with ION NaOH and extracted with EtOAc (2×500 mL). The combined organic extracts were dried over MgSO4 and filtered. The solvent was removed in vacuo and the residue was purified by silica gel column chromatography, eluting with EtOAc/hexane (1:2) to give the title compound as a yellow solid. MS (ESI, positive ion) m/z: 208 (M+1).

reactant | 5-trifluoromethyl-pyridin-2-ylamine | 51.2 mmol, 8.3 g | FC(C=1C=CC(=NC1)N)(F)F | C6H5F3N2
reactant | H2SO4 | 49 mL | OS(=O)(=O)O | H2O4S
reactant | HNO3 | 8.2 mL | [N+](=O)(O)[O-] | HNO3
reactant | NaOH | [OH-].[Na+]
product | 3-Nitro-5-trifluoromethyl-pyridin-2-ylamine | [N+](=O)([O-])C=1C(=NC=C(C1)C(F)(F)F)N | C6H4F3N3O2
